US04060603
ii. L-Pyroglutamyl-Nα -methyl-L-histidyl-trans-3-methyl-L-prolineamide
This was prepared from benzyloxycarbonyl-L-pyroglutamyl-Nα -methyl-L-histidine (207 mg) and trans-3-methyl-L-prolineamide (77 mg) by the method of Example 2(vi) to yield a white hydroscopic solid (90 mg) RF 3A m.p. 135°-140° RF 3B 0.60 (Found C, 55.0; H, 7.0; N, 21.2; C18H23N6O4 requires C, 55.4; H, 6.7; N, 21.5%) [α]D22 - 23.9° (c = 1, dimethylformamide).

reactant | benzyloxycarbonyl-L-pyroglutamyl-Nα -methyl-L-histidine | 207 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)N([C@@H](CC1=CNC=N1)C(=O)O)C | C20H22N4O6
reactant | trans-3-methyl-L-prolineamide | 77 mg | C[C@@H]1[C@H](NCC1)C(=O)N | C6H12N2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | L-Pyroglutamyl-Nα -methyl-L-histidyl-trans-3-methyl-L-prolineamide | 90 mg | N1[C@@H](CCC1=O)C(=O)N([C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)[C@H](CC1)C)C | C18H26N6O4
